US07018993B2
17β-(tert-Butyldimethylsilyloxy)-7α-(3-(3,5-dihydroxyphenyl)propyl)-5α-androstan-3-one (75 mg), benzyl bromide (16.9 μl) and potassium carbonate (56 mg) were suspended in DMF (1 ml) and stirred overnight at 25° C. After addition of saturated aqueous ammonium chloride, the reaction mixture was extracted with ethyl acetate and then washed with water and saturated aqueous sodium chloride. The organic layer was dried over anhydrous magnesium sulfate and then filtered. After evaporation under reduced pressure to remove the solvent, the resulting residue was subjected to silica gel column chromatography (eluent: ethyl acetate/n-hexane=1/4) to give 17β-(tert-butyldimethylsilyloxy)-7α-(3-(3-benzyloxy-5-hydroxyphenyl)propyl)-5α-androstan-3-one (21.0 mg, yield 24%).

reactant | 17β-(tert-Butyldimethylsilyloxy)-7α-(3-(3,5-dihydroxyphenyl)propyl)-5α-androstan-3-one | 75 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1[C@@H](C[C@H]3CC(CC[C@]3(C)[C@H]1CC2)=O)CCCC2=CC(=CC(=C2)O)O | C34H54O4Si
reactant | benzyl bromide | 16.9 μl | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 56 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 17β-(tert-butyldimethylsilyloxy)-7α-(3-(3-benzyloxy-5-hydroxyphenyl)propyl)-5α-androstan-3-one | 21.0 mg, yield 24% | [Si](C)(C)(C(C)(C)C)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1[C@@H](C[C@H]3CC(CC[C@]3(C)[C@H]1CC2)=O)CCCC2=CC(=CC(=C2)O)OCC2=CC=CC=C2 | C41H60O4Si
